US08404866B2
To a stirred solution of PPh3 (92 mg, 0.35 mmol) in THF (2 mL) at 0° C. was added DEAD (55 μL, 0.35 mmol) dropwise. After 10 min, a solution of (3R,4R)—N-Cbz-3-(4-phenoxybenzenesulfonamido)-4-hydroxypyrrolidine (82 mg, 0.175 mmol) and thiolbenzoic acid (85 μL, 0.53 mmol) in THF (2 mL) was added. The reaction mixture was stirred at room temperature overnight, then it was concentrated under reduced pressure. The residue was purified by flash chromatography (15% ethyl acetate in hexane) to give (3R,4S)—N-Cbz-3-(4-phenoxybenzenesulfonamido)-4-benzoylthio-pyrrolidine (100 mg, 97%): 1H NMR (300 MHz, CD3OD) δ 7.89 (d, J=8, 2H), 7.80 (dd, J=9, 3, 2H), 7.66 (t, J=8, 2H), 7.51 (m, 2H), 7.35 (m, 6H), 7.20 (t, J=8, 1H), 6.93 (m, 4H), 5.11 (s, 2H), 4.21 (m, 3H), 3.87 (m, 1H), 3.61 (m, 1H), 3.46 (m, 1H); [α]20D=+35.7° (c=0.70, CHCl3).

reactant | PPh3 | 0.35 mmol, 92 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.35 mmol, 55 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (3R,4R)—N-Cbz-3-(4-phenoxybenzenesulfonamido)-4-hydroxypyrrolidine | 0.175 mmol, 82 mg | C(=O)(OCC1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H24N2O6S
reactant | thiolbenzoic acid | 0.53 mmol, 85 μL | S1C(=CC=C1)C1=CC=CC=C1C(=O)O | C11H8O2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3R,4S)—N-Cbz-3-(4-phenoxybenzenesulfonamido)-4-benzoylthio-pyrrolidine | 100 mg, 97% | C(=O)(OCC1=CC=CC=C1)N1C[C@H]([C@H](C1)SC(C1=CC=CC=C1)=O)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C31H28N2O6S2
